US09382356B2
(v) Synthesis of dibenzylmethylene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorenyl)zirconium dichloride
Under a nitrogen atmosphere, a 100-mL Schlenk flask was charged with 0.59 g (0.855 mmol) of dibenzylmethylene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene) and 40 mL of dehydrated diethyl ether, and the mixture was stirred. This mixed slurry solution was cooled in an ice bath, and 1.21 mL (1.88 mmol) of a 1.56 mol/L hexane solution of n-butyllithium was added. The mixture was stirred for 45 hours while gradually warming to room temperature. The resulting red reaction solution was cooled to −78° C. in a dry ice/methanol bath, and then 0.200 g (0.858 mmol) of zirconium tetrachloride was added. Subsequently, the mixture was stirred for 42 hours while gradually warming to room temperature to obtain a red-orange suspension. The solvent was removed by distillation under reduced pressure. Under a nitrogen atmosphere, the residue was dissolved in n-hexane, and the liquid was passed through a glass filter filled with Celite, insolubles were washed n-hexane, and the orange colored powder insoluble in n-hexane was subjected to extraction with dichloromethane. The solvent in which the dichloromethane-solubles were dissolved was distilled off. The residue was washed with diethyl ether/cold n-pentane and dried to obtain a target product as an orange-colored powder (yield 515 mg (71%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | dibenzylmethylene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene) | 0.855 mmol, 0.59 g | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C53H50
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | zirconium tetrachloride | 0.858 mmol, 0.200 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | hexane | 1.56 mol/L | CCCCCC | C6H14
product | dibenzylmethylene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorenyl)zirconium dichloride | yield 515 mg, 71% | [Cl-].[Cl-].C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=[Zr+2](C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=CC=CC=C1)C(C)(C)C)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1 | InChI=1S/C33H33.C15H14.C5H5.2ClH.Zr/c1-32(2,3)30-20-26-24(18-28(30)22-13-9-7-10-14-22)17-25-19-29(23-15-11-8-12-16-23)31(21-27(25)26)33(4,5)6;1-3-8-14(9-4-1)12-7-13-15-10-5-2-6-11-15;1-2-4-5-3-1;;;/h7-16,18,20-21H,17H2,1-6H3;1-6,8-11H,12-13H2;1-5H;2*1H;/q;;;;;+2/p-2
